US09422310B2
A mixture of 3-bromo-4-chloro-N-(2-hydroxy-phenyl)-N-methyl-benzamide (442 mg, 1.3 mmol), methylbromoacetate (0.247 mL, 2.6 mmol) and K2CO3 (717 mg, 5.2 mmol) was heated in DMF (8 mL) at 80° C. for 5 hrs. After cooling to room temperature, the mixture was partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried over Na2SO4, then purified by silica gel column chromatography eluted with ethyl acetate/hexane (1/4) to yield {2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenoxy}acetic acid methyl ester (495 mg). MS [M+H]+: 413.9; tR=2.75 min. (method 1)

reactant | 3-bromo-4-chloro-N-(2-hydroxy-phenyl)-N-methyl-benzamide | 1.3 mmol, 442 mg | BrC=1C=C(C(=O)N(C)C2=C(C=CC=C2)O)C=CC1Cl | C14H11BrClNO2
reactant | methylbromoacetate | 2.6 mmol, 0.247 mL | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 5.2 mmol, 717 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | {2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenoxy}acetic acid methyl ester | 495 mg, 72% yield | COC(COC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)Br)=O)=O | C17H15BrClNO4
